US05783696
N-(4-Benzyloxycarbonylphenyl)-N-(4-toluenesulfonyl)-acridine-9-carboxamide (5-3)
2.1 ml (15 mmol) of triethylamine in 10 ml of tetrahydrofuran are added dropwise at 25° C. to a solution of 1.5 g (4 mmol) of N-(4-benzyloxycarbonylphenyl)-4-toluenesulfonamide, 1.23 g (4.4 mmol) of acridinecarbonyl chloride hydrochloride and 0.02 g of dimethylaminopyridine in 20 ml of anhydrous tetrahydrofuran. The temperature is raised to 600° C.

reactant | triethylamine | 15 mmol, 2.1 ml | C(C)N(CC)CC | C6H15N
reactant | N-(4-benzyloxycarbonylphenyl)-4-toluenesulfonamide | 4 mmol, 1.5 g | C(C1=CC=CC=C1)OC(=O)C1=CC=C(C=C1)NS(=O)(=O)C1=CC=C(C=C1)C | C21H19NO4S
reactant | acridinecarbonyl chloride hydrochloride | 4.4 mmol, 1.23 g | Cl.C1(=CC=CC2=NC3=CC=CC=C3C=C12)C(=O)Cl
reactant | dimethylaminopyridine | 0.02 g | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | N-(4-Benzyloxycarbonylphenyl)-N-(4-toluenesulfonyl)-acridine-9-carboxamide | C(C1=CC=CC=C1)OC(=O)C1=CC=C(C=C1)N(C(=O)C=1C2=CC=CC=C2N=C2C=CC=CC12)S(=O)(=O)C1=CC=C(C=C1)C | C35H26N2O5S
